US08389508B2
To a solution of ethyl 1-[(2-ethyl-3-{2-[4-[(1-methylethyl)oxy]-3-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}phenyl)methyl]-4-piperidinecarboxylate (D81) (160 mg) in isopropanol (3 mL) and water (0.750 mL) stirred under nitrogen at room temperature was added a solution of NaOH (26.8 mg) in water in one charge. The reaction mixture was stirred at room temperature for 2 h. Isopropanol was removed in vacuo. The residue was dissolved in water and acidified with 1N HCl to pH=5. The solvent was removed in vacuo, the residue was dissolved in THF, and filtered. The filtrate was purified by Mass Directed AutoPrep to give 1-[(2-ethyl-3-{2-[4-[(1-methylethyl)oxy]-3-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}phenyl)methyl]-4-piperidinecarboxylic acid (E32) (28 mg). δH (DMSO-d6, 400 MHz): 1.07 (3H, t), 1.33 (6H, d), 1.53 (2H, m), 1.77 (2H, m), 2.03 (2H, m), 2.22 (1H, m), 2.77 (4H, m), 3.49 (2H, s), 4.89 (1H, m), 7.24 (1H, t), 7.30 (1H, d), 7.38 (1H, d), 7.44 (1H, d), 7.86 (1H, s), 8.15 (2H, m), 12.09 (1H, br s). δF (DMSO-d6, 376 MHz): −61.3. MS (ES): C28H31F3N2O3S requires 532. found 533.3 (M+H+).

reactant | ethyl 1-[(2-ethyl-3-{2-[4-[(1-methylethyl)oxy]-3-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}phenyl)methyl]-4-piperidinecarboxylate | 160 mg | C(C)C1=C(C=CC=C1C1=CN=C(S1)C1=CC(=C(C=C1)OC(C)C)C(F)(F)F)CN1CCC(CC1)C(=O)OCC | C30H35F3N2O3S
reactant | NaOH | 26.8 mg | [OH-].[Na+]
solvent | isopropanol | 3 mL | C(C)(C)O | C3H8O
solvent | water | 0.750 mL | O | H2O
product | 1-[(2-ethyl-3-{2-[4-[(1-methylethyl)oxy]-3-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}phenyl)methyl]-4-piperidinecarboxylic acid | 28 mg | C(C)C1=C(C=CC=C1C1=CN=C(S1)C1=CC(=C(C=C1)OC(C)C)C(F)(F)F)CN1CCC(CC1)C(=O)O | C28H31F3N2O3S
